US05143924
A mixture of 1.4 g of 2,2-dimethyl-3-formyl-4-bromo-6-cyano-3-chromene (m.p. 124°-125°; obtainable by dropwise addition of a solution of 2,2-dimethyl-5-cyano-5-chromanone in chloroform to a mixture of equal volume parts of DMF and PBr3 in chloroform and subsequent boiling for 11 hours), 0.9 g of 1H-2-pyridone, 3 g of K2CO3 and 20 ml of DMF is stirred at 60° for 1 hour. The mixture is diluted with ethyl acetate and filtered, and customary working up of the filtrate gives 2,2-dimethyl-3-formyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-cyano-3-chromene ("A") m.p. 190°-192° C.

reactant | 2,2-dimethyl-3-formyl-4-bromo-6-cyano-3-chromene | 1.4 g | CC1(OC2=CC=C(C=C2C(=C1C=O)Br)C#N)C | C13H10BrNO2
reactant | PBr3 | P(Br)(Br)Br | Br3P
reactant | 1H-2-pyridone | 0.9 g | N1C(C=CC=C1)=O | C5H5NO
reactant | K2CO3 | 3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2,2-dimethyl-3-formyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-cyano-3-chromene | CC1(OC2=CC=C(C=C2C(=C1C=O)N1C(C=CC=C1)=O)C#N)C | C18H14N2O3
